US04122175
4-Benzyl-2-(1-phenyl-6-chloro-2,3-dihydrobenzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride
The condensation of 0.1 mol of 1-phenyl-6-chloro-2,3-dihydro-benzimidazol-2-one and 0.1 mol of 2-chloromethyl-4-benzyl-morpholine is carried out in accordance with the procedure of Example 1. By washing the product with hot acetone, 28 g of 4-benzyl-2-(1-phenyl-6-chloro-2,3-dihydrobenzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride are obtained, m.p. 185° C.

reactant | 1-phenyl-6-chloro-2,3-dihydro-benzimidazol-2-one | 0.1 mol | C1(=CC=CC=C1)N1C(NC2=C1C=C(C=C2)Cl)=O | C13H9ClN2O
reactant | 2-chloromethyl-4-benzyl-morpholine | 0.1 mol | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
product | 4-Benzyl-2-(1-phenyl-6-chloro-2,3-dihydrobenzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CN1C(N(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | InChI=1S/C25H24ClN3O2.ClH/c26-20-11-12-23-24(15-20)29(21-9-5-2-6-10-21)25(30)28(23)18-22-17-27(13-14-31-22)16-19-7-3-1-4-8-19;/h1-12,15,22H,13-14,16-18H2;1H
